US07820683B2
(2R)—N,N-dimethyl-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 18, (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide (150 mg, 0.57 mmol) and 1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-amine (138 mg, 0.6 mmol) were reacted to give the title compound as a white solid (208 mg, 77%); NMR Spectrum (CDCl3) 1.73 (d, 3H), 3.06 (s, 3H), 3.14 (s, 3H), 5.43 (q, 1H), 5.92 (s, 2H), 6.82 (d, 1H), 7.26 (m, 1H), 7.50 (d, 2H), 7.61 (t, 1H), 7.75 (d, 1H), 7.87 (dd, 1H), 8.11 (s, 1H), 8.45 (s, 1H), 8.62 (s, 1H); Mass spectrum 474.

reactant | (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide | 0.57 mmol, 150 mg | CN(C([C@@H](C)OC1=C2C(NC=NC2=CC=C1)=O)=O)C | C13H15N3O3
reactant | 1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-amine | 0.6 mmol, 138 mg | S1C(=NC=C1)CN1N=CC2=CC(=CC=C12)N | C11H10N4S
product | (2R)—N,N-dimethyl-2-[(4-{[1-(1,3-thiazol-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 208 mg, 77% | CN(C([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC=1SC=CN1)=O)C | C24H23N7O2S
